US04824596
This trans-4-pentylcyclohexanecarboxamidine hydrochloride (69 g, 0.30 mol) and dimethyl methoxymalonate (48 g, 0.30 mol) were added to a solution of sodium methylate (56 g, 1.0 mol) dissolved in anhydrous methanol (1 l), followed by heating the mixture under reflux with stirring for 5 hours, thereafter cooling the resulting material, mixing it with 6N-hydrochloric acid (500 ml), agitating the mixed liquid at room temperature for 20 minutes, filtering the liquid under suction through a filter, washing the resulting residue on the filter with water and methanol and drying it under reduced pressure to obtain 2-(trans-4-pentylcyclohexyl)-4,6-dihydroxy-5-methoxypyrimidine (67 g, 0.23 mol).

reactant | trans-4-pentylcyclohexanecarboxamidine hydrochloride | 0.30 mol, 69 g | Cl.C(CCCC)[C@@H]1CC[C@H](CC1)C(=N)N
reactant | dimethyl methoxymalonate | 0.30 mol, 48 g | COC(C(=O)OC)C(=O)OC | C6H10O5
reactant | sodium methylate | 1.0 mol, 56 g | C[O-].[Na+]
reactant | hydrochloric acid | 500 ml | Cl | ClH
solvent | methanol | 1 l | CO | CH4O
product | 2-(trans-4-pentylcyclohexyl)-4,6-dihydroxy-5-methoxypyrimidine | 0.23 mol, 67 g | C(CCCC)[C@@H]1CC[C@H](CC1)C1=NC(=C(C(=N1)O)OC)O | C16H26N2O3
